US06716851B2
4-Chloro-2-[6-(trifluoromethyl)-3-pyridinyl]-6-(trifluoromethyl)pyrimidine:
A mixture of 4-hydroxy-6-trifluoromethyl-2-(6-trifluoromethyl-3-pyridinyl)-pyrimidine (145 mg, 0.469 mmol) and phosphorus oxychloride (10 ml) was refluxed for 3 h. The mixture was cooled to room temperature and rotary evaporated to leave an oily residue. The residue was extracted with ethyl acetate (50 ml), washed with water (2×20 ml) and dried over anhydrous sodium sulfate. The ethyl acetate solution was concentrated in vacuo to give a crude solid (80 mg).

reactant | 4-hydroxy-6-trifluoromethyl-2-(6-trifluoromethyl-3-pyridinyl)-pyrimidine | 0.469 mmol, 145 mg | OC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC(=CC1)C(F)(F)F | C11H5F6N3O
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-2-[6-(trifluoromethyl)-3-pyridinyl]-6-(trifluoromethyl)pyrimidine | 80 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC(=CC1)C(F)(F)F | C11H4ClF6N3
